US05279999
A solution of 1.2 g of 4-t-butylphenylcyclopentadienyllithium (0.0059 mole) in 20 ml tetrahydrofuran was slowly added at room temperature to a solution of 0.685 g of zirconium tetrachloride (0.0029 mole) in 50 ml tetrahydrofuran. After stirring the solution for 2 hours, the tetrahydrofuran was removed by evaporation leaving a residue. The resulting residue was taken up in hot toluene. Any undissolved material was removed by filtration and a resultant clear solution was evaporated to dryness. The solid residue obtained from the evaporation to dryness was taken up in dichloromethane. Undissolved, off-white solids were removed by centrifugation and decantation. The clear solution was once again evaporated to dryness yielding bis[(4-t-butylphenyl)cyclopentadienyl]zirconium dichloride as a yellow solid material. Spectral data from a proton-NMR is consistent with the product obtained.

reactant | 4-t-butylphenylcyclopentadienyllithium | 0.0059 mole, 1.2 g | C(C)(C)(C)C1=CC=C(C=C1)C1(C=CC=C1)[Li]
reactant | zirconium tetrachloride | 0.0029 mole, 0.685 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | bis[(4-t-butylphenyl)cyclopentadienyl]zirconium dichloride | [Cl-].[Cl-].C(C)(C)(C)C1=CC=C(C=C1)C1(C=CC=C1)[Zr+2]C1(C=CC=C1)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/2C15H17.2ClH.Zr/c2*1-15(2,3)14-10-8-13(9-11-14)12-6-4-5-7-12;;;/h2*4-11H,1-3H3;2*1H;/q;;;;+2/p-2
